US08669271B2
4-[5-(4-Ethanesulfonyl-piperazin-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]pyridine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 1-(ethylsulfonyl)piperazine following a procedure analogous to that described in Example 79. LC (method 10): tR=1.45 min;

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 1-(ethylsulfonyl)piperazine | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
product | 4-[5-(4-Ethanesulfonyl-piperazin-1-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=C(C=C1)C1CC=2C(=CN=C(C2)N2CCN(CC2)S(=O)(=O)CC)O1 | C23H32N4O5S
